US05721234
Preparation of 6-bromo-4-nitro-indan-2,5-diamine monohydrochloride
N-(5-Acetylamino-6-bromo-4-nitro-indan-2-yl)-acetamide (1 g, 2.8 mmol) was stirred in 3N HCl (80 mL) at reflux for 3 h. The resulting solid was collected by filtration and dried in vacuo. Additional material was obtained by evaporation of the filtrate to give a combined yield of 93% of the yellow orange product (0.8 g).

reactant | N-(5-Acetylamino-6-bromo-4-nitro-indan-2-yl)-acetamide | 2.8 mmol, 1 g | C(C)(=O)NC=1C(=C2CC(CC2=CC1Br)NC(C)=O)[N+](=O)[O-] | C13H14BrN3O4
reactant | HCl | 3N, 80 mL | Cl | ClH
product | 6-bromo-4-nitro-indan-2,5-diamine monohydrochloride | 0.8 g, yield of 93% | Cl.BrC1=C(C(=C2CC(CC2=C1)N)[N+](=O)[O-])N | InChI=1S/C9H10BrN3O2.ClH/c10-7-2-4-1-5(11)3-6(4)9(8(7)12)13(14)15;/h2,5H,1,3,11-12H2;1H
